US04845210
Trans-4-acetoxy-3-[1-(tert-butyldimethylsilyloxy)-ethyl]-2-azetidinone (0.20 g) is dissolved in a mixture of acetic acid (5 ml) and water (2 ml), and the solution is stirred at 70°-80° C. for 2.5 hours and then concentrated under reduced pressure. The residue is subjected to silica gel column chromatography to give 0.03 g of trans-4-acetoxy-3-(1-hydroxyethyl)-2-azetidinone.

reactant | Trans-4-acetoxy-3-[1-(tert-butyldimethylsilyloxy)-ethyl]-2-azetidinone | 0.20 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)C(C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | trans-4-acetoxy-3-(1-hydroxyethyl)-2-azetidinone | 0.03 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)C(C)O | C7H11NO4
